US07648986B2
Step 1: Preparation of 2,2-dimethoxy-N-(3-thienylmethyl)ethanamine
To 3-thiophenecarboxaldehyde (8.75 mL) cooled to 0° C. was added aminoacetaldehyde dimethylacetal (14.2 mL). The clear solution was stirred at room temperature for 60 h. The solution was diluted with ethanol and hydrogenated at 56 psi in the presence of 10% Pd/C (5 g) overnight. The catalyst was filtered off and washed with MeOH. The solvent was removed by rotary evaporation and co-evaporated with toluene to afford an oil (19 g, 94% yield).

reactant | 3-thiophenecarboxaldehyde | 8.75 mL | S1C=C(C=C1)C=O | C5H4OS
reactant | aminoacetaldehyde dimethylacetal | 14.2 mL | COC(CN)OC | C4H11NO2
solvent | ethanol | C(C)O | C2H6O
catalyst | Pd/C | 5 g | [Pd] | Pd
product | 2,2-dimethoxy-N-(3-thienylmethyl)ethanamine | 19 g, 94% yield | COC(CNCC1=CSC=C1)OC | C9H15NO2S
